US07795247B2
Step 4: methyl 14-cyclohexyl-6-(2-morpholin-4-ylethyl)-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylate
To a solution of methyl 14-cyclohexyl-6-(2-morpholin-4-ylethyl)-7-oxo-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylate in THF (0.15 M), 20 eq of BH3Me2S (2 M solution in THF) was added dropwise and the solution stirred at RT for 2 h. MeOH was added carefully to the mixture until effervescence ceased, then the volatiles were removed in vacuo. The crude residue was not isolated and directly used in the next step; MS (ES+) m/z 502 (M+H)+.

reactant | methyl 14-cyclohexyl-6-(2-morpholin-4-ylethyl)-7-oxo-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CN(C(C2)=O)CCN2CCOCC2)C=CC=C1)C(=O)OC | C31H37N3O4
reactant | MeOH | CO | CH4O
solvent | THF | 0.15 M | C1CCOC1 | C4H8O
product | methyl 14-cyclohexyl-6-(2-morpholin-4-ylethyl)-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CN(CC2)CCN2CCOCC2)C=CC=C1)C(=O)OC | C31H39N3O3
